US04487776
35 g (0.5 mol) of imidazole and 70 g (0.5 mol) of potassium carbonate are dissolved in 700 ml of toluene. 93 g (0.26 mol) of 1-bromo-1-(4-chlorophenoxy)-5-chloro-3,3-dimethyl-pentan-2-one in 200 ml of toluene are added to this mixture at 80° C. The reaction mixture is stirred for a further 10 hours at 90° C., cooled and filtered off under suction from the inorganic residue. The filtrate is washed with water, dried over sodium sulphate and evaporated down. The residue is purified by column chromatography (silica gel: ethyl acetate/cyclohexane=3/1). 12.6 g (14.2% of theory) of (4-chlorophenoxy)-(imidazol-1-yl)-3,3-dimethyltetrahydrofuran-2-ylidene-methane of melting point 85°-88° C. are obtained.

reactant | imidazole | 0.5 mol, 35 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 0.5 mol, 70 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-1-(4-chlorophenoxy)-5-chloro-3,3-dimethyl-pentan-2-one | 0.26 mol, 93 g | BrC(C(C(CCCl)(C)C)=O)OC1=CC=C(C=C1)Cl | C13H15BrCl2O2
solvent | toluene | 700 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | (4-chlorophenoxy)-(imidazol-1-yl)-3,3-dimethyltetrahydrofuran-2-ylidene-methane | 12.6 g, 14.2% | ClC1=CC=C(OC(=C2OCCC2(C)C)N2C=NC=C2)C=C1 | C16H17ClN2O2
